US07692005B2
2-Methyl-N-(3-{2-oxo-3-[(4-pyrrolidin-1-ylmethyl-phenylamino)-methylene]-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-benzamide
A small screw cap test tube was charged with N-[3-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-2-methyl-benzamide (prepared below, 100 mg, 0.251 mmol) and THF (2.5 mL). To the resulting solution was added 4-Pyrrolidin-1-ylmethyl-phenylamine (44.2 mg, 0.251 mmol), and the mixture was stirred for 24 h at 65° C. Subsequently, the reaction mixture was cooled to room temperature and diluted with EtOAc (˜5 mL) and Hexane (˜40 mL). The precipitate that formed was collected by filtration and washed with acetone (˜5 mL) to afford the title compound in 56% yield (0.078 g, 0.1401 mmol).

reactant | N-[3-(3-Hydroxymethylene-2-oxo-2,3-dihydro-1H-indole-6-carbonyl)-phenyl]-2-methyl-benzamide | 0.251 mmol, 100 mg | OC=C1C(NC2=CC(=CC=C12)C(=O)C=1C=C(C=CC1)NC(C1=C(C=CC=C1)C)=O)=O | C24H18N2O4
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
reactant | 4-Pyrrolidin-1-ylmethyl-phenylamine | 0.251 mmol, 44.2 mg | N1(CCCC1)CC1=CC=C(C=C1)N | C11H16N2
solvent | EtOAc | ˜5 mL | CCOC(=O)C | C4H8O2
solvent | Hexane | ˜40 mL | CCCCCC | C6H14
product | 2-Methyl-N-(3-{2-oxo-3-[(4-pyrrolidin-1-ylmethyl-phenylamino)-methylene]-2,3-dihydro-1H-indole-6-carbonyl}-phenyl)-benzamide | 56% yield | CC1=C(C(=O)NC2=CC(=CC=C2)C(=O)C2=CC=C3C(C(NC3=C2)=O)=CNC2=CC=C(C=C2)CN2CCCC2)C=CC=C1 | C35H32N4O3
